US08685969B2
6. Benzyl 3-(1-carbamoyl-6-morpholino-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate
A solution of 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-6-morpholino-9H-pyrido[3,4-b]indole-1-carboxylic acid (0.1408 g, 0.262 mmol), ammonium chloride (0.056 g, 1.050 mmol), BOP (0.151 g, 0.341 mmol), DIPEA (0.220 mL, 1.260 mmol) and N-methylmorpholine (0.113 mL, 1.023 mmol) in DMF (2.187 mL) was stirred for 1 hr. Water (22 mL) was added, and the precipitate was filtered, washed with water, dried over Drierite to give the desired product (0.1277 g, 0.231 mmol, 88% yield) as a light tan solid.

reactant | 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-6-morpholino-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.262 mmol, 0.1408 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC=C(C=C3C21)N2CCOCC2)C(=O)O)C | C31H28N4O5
reactant | ammonium chloride | 1.050 mmol, 0.056 g | [Cl-].[NH4+]
reactant | BOP | 0.341 mmol, 0.151 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 1.260 mmol, 0.220 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 1.023 mmol, 0.113 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2.187 mL | CN(C)C=O | C3H7NO
solvent | Water | 22 mL | O | H2O
product | Benzyl 3-(1-carbamoyl-6-morpholino-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.231 mmol, 0.1277 g, 88% yield | C(N)(=O)C1=NC=C(C2=C1NC1=CC=C(C=C21)N2CCOCC2)C=2C(=C(C=CC2)NC(OCC2=CC=CC=C2)=O)C | C31H29N5O4
